US08252781B2
Preparation of 4,4-dimethyl-1-phenyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one
Under an argon atmosphere, a solution of 2-(adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one (50.0 mg, 0.213 mmol) prepared in Process 3 of Example 12 in toluene (1 mL) was added with palladium acetate (II) (1.00 mg, 0.00445 mmol), tri-t-butylphosphine (0.700 mg, 0.00346 mmol), sodium t-butoxide (30.8 mg, 0.320 mmol) and bromobenzene (67.0 mg, 0.427 mmol) sequentially at room temperature, and the resultant was stirred under microwave irradiation at 110° C. for 1 hour. The reaction solution was added with water and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, concentrated in vacuo, the obtained residue was purified using Preparative Thin-Layer chromatography (hexane:ethyl acetate=5:1), and the title compound (42.0 mg, 64.4%) was obtained as a pale yellow amorphous solid.

reactant | 2-(adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | 0.213 mmol, 50.0 mg | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | sodium t-butoxide | 0.320 mmol, 30.8 mg | CC(C)([O-])C.[Na+]
reactant | bromobenzene | 0.427 mmol, 67.0 mg | BrC1=CC=CC=C1 | C6H5Br
reactant | water | O | H2O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.00445 mmol, 1.00 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-t-butylphosphine | 0.00346 mmol, 0.700 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | 4,4-dimethyl-1-phenyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one | 42.0 mg, 64.4% | CC1(C(N(N1C1=CC=CC=C1)C1C2CC3CC(CC1C3)C2)=O)C | C20H26N2O
